Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nizoral / Lotrimin / Nifedipine
 
Attending: ___.
 
Chief Complaint:
Hypertensive Urgency
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is an ___ year old female with medical history 
pertinent for hypertension, post-polio syndrome, and SA node 
dysfunction s/p PPM who presents with concern for elevated blood 
pressure. 
    The patient reports she has been in her usual state of 
health and went to down ___ today to drop off toys for 
a toy drive. While she was there she decided to have her blood 
pressure checked at a health fair. Her blood pressure at this 
time was reportedly 230/118 for which she was sent to the ED for 
evaluation. The patient reports she has been without any 
symptoms. She has generally good exercise tolerance, walks with 
cane but without dyspnea, can climb 3 flight of stairs. She 
denies headache, nausea, blurry vision, chest pain, dyspnea, 
hematuria, or headache. The patient reports she checked her 
blood pressure one time 3 months ago and believes it was SBP 
180s at that time. The patient was last seen by her PCP in 
___ with BP 170/82 at that time for which HCTZ was 
re-introduced (previously held with concern this was 
contributing to gout). The patient reports she has been nearly 
perfectly compliant with her medications as prescribed. She 
denies change in medications with exception of introduction of 
HCTZ in ___. The patient denies high salt diet but does 
concedes she does not follow a low sodium diet either.
    ED Course: Vitals 237/112, 88, 16, 97% RA. In the ED the 
patient received Atenolol 50mg PO x1 as well as Labetalol 10mg 
IV followed by 20mg IV with reported SBP of 178 prior to 
transfer to floor.
 
Past Medical History:
#. Hypertension
#. Depression
- SAD
#. Sciatica
- s/p 2 spinal fusions
#. Occipital neuralgia
#. Gout
#. History of polio
- complicated by left foot drop, uses brace
#. s/p PPM for sinus arhythmia with syncopal episodes
#. GERD
#. Osteoporosis
#. Cataracts
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals: 97.8, HR: 66, RR 16, O2: 95% RA
Left: 220/100
Right: 200/80
General: Patient is a very pleasant female, sitting in bed in no 
distress. Oriented x 3, appropriate
HEENT: NCAT, EOMI, sclera anicteric, conjunctiva WNL
OP: MMM, no lesions. + upper dentures
Neck: Supple, no JVD
Chest: Minimal crackles at left base, clear with deep 
inspiration. Otherwise CTA
Cor: RRR, normal S1/S2. No M/R/G
Abdomen: Obese, soft, non-tender, non-distended. No bruits 
present
Ext: Left ___ with significant muscular atrophy relative to 
right. Few small blisters ecchymoses over left toe tips, 
necrotic appearing area over third toe. No lesions on right or 
finger tips. Feet warm, well perfused, DP 2+
Skin/Nails: Lesions as above, otherwise normal. Normal nails
Neuro: Grossly intact

 
Pertinent Results:
___ 02:40PM   GLUCOSE-124* UREA N-16 CREAT-0.8 SODIUM-143 
POTASSIUM-3.2* CHLORIDE-105 TOTAL CO2-25 ANION GAP-16
___ 02:40PM   CK(CPK)-226*
___ 02:40PM   cTropnT-<0.01
___ 02:40PM   CK-MB-6 cTropnT-<0.01
___ 02:40PM   WBC-7.4 RBC-4.91 HGB-14.1 HCT-40.9 MCV-83 
MCH-28.8 MCHC-34.5 RDW-14.2
___ 02:40PM   PLT COUNT-335
 
Brief Hospital Course:
#. Hypertensive Urgency: Patient without symptoms, no evidence 
of end-organ damage acutely. UA negative, CE negative on 
admission, ECG non-dynamic. No bruits on exam, can consider 
evaluation for RAS as an outpatient if she remains refractory to 
treatment. Atenolol was changed to Labetalol given increased 
alpha to beta activity, and she was normotensive on 100mg tid. 
Lisinopril and amlodipine were continued. She will have ___ 
services to help monitor her BP at home and will follow up with 
her PCP for continuing BP med titration.

#. Osteoporosis: Continued Alendronate, Calcium + Vitamin D

#. GERD: Continued PPI

#. Skin lesions: Patients with lesions over left foot, one 
almost necrotic appearing. Although distal toe lesions 
concerning for embolic phenomenon, these have occurred 
previously per patient, always in same foot (affected foot with 
foot drop) and seem more likely to reflect trauma. Foot is warm 
and well perfused with 2+ DP. Monitored in-house.
 
Medications on Admission:
Amlodipine 10mg daily
Atenolol 50mg daily
HCTZ 25mg daily
Lisinopril 40mg daily
Alendronate 70mg daily - has not yet started
Omeprazole 20mg daily
Aspirin 81mg daily
Clotrimazole 1% cream twice daily
Calcium Carbonate 500mg (1250mg) twice daily + Vit D
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Labetalol 100 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*90 Tablet(s)* Refills:*2*
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
9. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: hypertensive urgency
Secondary: osteoporosis, GERD

 
Discharge Condition:
good, stable, asymptomatic

 
Discharge Instructions:
You were evaluated for high blood pressure for which you were 
asymptomatic. Your blood pressure regimen was changed; instead 
of atenolol, take labetalol 100mg three times a day. You will 
have visiting nurse services to assist in following your blood 
pressure.

If you have headache, visual changes, focal weakness, chest 
pain, shortness of breath, or any other concerning symptoms, 
call your doctor or seek medical attention immediately.
 
Followup Instructions:
___